US05821239
4-[[(Dimethylamino)methylene]amino]-3-pyridinol 1-piperidinecarbamate
A mixture prepared from 4-[[(dimethylamino)methylene]amino]-3-pyridinol (5.2 g), triethylamine (4.8 mL), piperidine carbonyl chloride (4.89 mL) and benzene (173 mL) was refluxed for a half hour, cooled, poured directly onto a silica column and eluted with 5% Et3N/ethyl acetate to yield 7.55 g of product. Recrystallization from ethyl acetate and drying under high vacuum for 2 hours yielded 5.5 g of crystals, m.p. 90°-91° C.

reactant | 4-[[(dimethylamino)methylene]amino]-3-pyridinol | 5.2 g | CN(C)C=NC1=C(C=NC=C1)O | C8H11N3O
reactant | triethylamine | 4.8 mL | C(C)N(CC)CC | C6H15N
reactant | piperidine carbonyl chloride | 4.89 mL | N1(CCCCC1)C(=O)Cl | C6H10ClNO
reactant | benzene | 173 mL | C1=CC=CC=C1 | C6H6
product | 4-[[(Dimethylamino)methylene]amino]-3-pyridinol 1-piperidinecarbamate | 7.55 g | N1(CCCCC1)NC(=O)OC=1C=NC=CC1N=CN(C)C | C14H21N5O2
